US07276526B2
2-Bromo-1-(2,6-dimethyl-pyridine-3-yl)-propan-1-one
To a solution 1-(2,6-dimethl-pyridine-3-yl)-propan-1-one (0.3 g, 1.8 mmol) in 30% by weight solution of hydrogen bromide in acetic acid (3 ml) was added dropwise (0.29 g, 1.8 mmol) of Bromine. The reaction was allowed to warm to room temperature with stirring for 2h. The mixture was then concentrated in vacuo and the resulting crude material neutralized using saturated sodium carbonate solution. The mixture was extracted twice with dichloromethane and the combined organic layers were washed with water and brine, dried over sodium sulfate and concentrated in vacuo. Yield: 400 mg (92%). 1H NMR (300 MHz, CDCl3), •1.88 (d, CH3, 3H), 2.64 (s, CH3, 3H), 2.76 (s, CH3, 3H), 5.12 (q, CH, 1H), 7.14 (d, Ar, 1 H,), 7.93 (d, Ar, 1 H).

reactant | 1-(2,6-dimethl-pyridine-3-yl)-propan-1-one | 1.8 mmol, 0.3 g | CC1=NC(=CC=C1C(CC)=O)C | C10H13NO
reactant | hydrogen bromide | Br | BrH
reactant | Bromine | 1.8 mmol, 0.29 g | BrBr | Br2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-(2,6-dimethyl-pyridine-3-yl)-propan-1-one | BrC(C(=O)C=1C(=NC(=CC1)C)C)C | C10H12BrNO
